### ISSUE TITLE
Define-fun from local declarations

### ISSUE THREAD

**Issue by Vtec234** [ufmg-smite/lean-smt#23]
During monomorphisation, we have to introduce auxiliary let-declarations for the monomorphised functions. It would be great if `smt` was able to `define-fun` these rather than just `declare-fun`. Here is a simpler example with no types involved:
```lean
example (x y z : Int) : x + y + z = x + (y + z) := by
  let add3 (x y z : Int) := x + y + z
  have : x + y + z = add3 x y z := rfl
  rw [this]
  smt -- (declare-fun add3 (Int Int Int) Int)
  smt [add3] -- failed to unfold definition add3
  sorry
```
